data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C(OS(=O)(=O)c3ccc(C)cc3)C3(F)COC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(Cl)OCC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(Cl)OCC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(Cl)OCC2(F)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(Cl)OCC2(F)O3)cc1", "products": "O=C1C2C1C1(Cl)OCC2(F)O1"}, {"reactants": "O=C1C2C1C1(Cl)OCC2(F)O1.[O-]C", "products": "COC1([O-])C2C1C1(Cl)OCC2(F)O1"}, {"reactants": "COC1([O-])C2C1C1(Cl)OCC2(F)O1.CO", "products": "COC(=O)C1CC2(F)COC1(Cl)O2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1C.[H+]", "products": "Cc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1C"}, {"reactants": "Cc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1C", "products": "Cc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1C.O"}, {"reactants": "Cc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1C", "products": "Cc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1C"}, {"reactants": "Cc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1C", "products": "CC1=C(c2cccc(C)c2C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(C)c2C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(C)c2C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(C)c2C)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1C"}, {"reactants": "Cc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1C", "products": "Cc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1C"}, {"reactants": "Cc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1C", "products": "Cc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1OC.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1OC.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1OC", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(C)CC2OC.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(C)CC2OC", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(C)CC2OC"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1c(Cl)cccc1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(Cl)cccc1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(Cl)cccc1Cl)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2c(Cl)cccc2Cl)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2c(Cl)cccc2Cl)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2c(Cl)cccc2Cl)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2c(Cl)cccc2Cl)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2c(Cl)cccc2Cl)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2c(Cl)cccc2Cl)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2c(Cl)cccc2Cl)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(C)C2C(Cl)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(C)CC1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(C)CC1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(C)CC1(Cl)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(C)CC1(Cl)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(C)CC1(Cl)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CF)c([Si](C)(C)C)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)C)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)C)c(F)c1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)CF)c([Si](C)(C)C)c(F)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1C.[Pd]", "products": "Cc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1C"}, {"reactants": "Cc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1C", "products": "Cc1ccc2c(c1C)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1ccc2c(c1C)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1ccc2c(c1C)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
